US07423050B2
20. 2,4,6-Trifluoro-N-[6-(1-cyclopropylmethyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide dihydrochloride salt
Combine 2,4,6-trifluoro-N-[6-(piperidin-4-ylcarbonyl)pyridin-2-yl]benzamide (0.05 g, 0.138 mmol), cyclopropylmethanal (0.10 g, 1.38 mmol) and dichloromethane (5 mL), and stir at ambient temperature. After 15 minutes, add glacial acetic acid (0.02 mL, 0.35 mmol) followed by sodium-triacetoxyborohydride (0.038 g, 0.18 mmol) with stirring. After 3 hrs., dilute the reaction mixture with methanol (5 mL) and load on an SCX column (10 g). Wash the column with methanol, elute with 2M ammonia/methanol, and concentrate the eluent. Purify the residue by flash chromatography, eluting with 10% ammonia/methanol in dichloromethane, to obtain the free base of the title compound (0.045 g, 77%). Dissolve the free base in dichloromethane (5 mL), treat with 1M hydrogen chloride in diethylether (0.25 mL), and concentrate the mixture to obtain the dihydrochloride salt. M.p.=140° C.; HRMS: Obs. m/z 418.1743; Calc. m/z 418.1742; 1H NMR (CDCl3): 11.51 (bs, 1H), 10.34 (bs, 1H), 8.38 (m, 1H), 8.11 (m, 1H), 7.78(d, 1H), 7.42 (m, 2H), 3.79 (m, 1H), 3.64 (m, 2H), 2.98 (m, 4H), 2.17 (m, 2H), 1.99 (m, 2H), 1.13 (m, 1H), 0.65 (m, 2H), 0.39 (m, 2H).

reactant | 2,4,6-trifluoro-N-[6-(piperidin-4-ylcarbonyl)pyridin-2-yl]benzamide | 0.138 mmol, 0.05 g | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCNCC2)C(=CC(=C1)F)F | C18H16F3N3O2
reactant | cyclopropylmethanal | 1.38 mmol, 0.10 g | C1(CC1)C=O | C4H6O
reactant | acetic acid | 0.35 mmol, 0.02 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.18 mmol, 0.038 g | [Na].C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 2,4,6-Trifluoro-N-[6-(1-cyclopropylmethyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide dihydrochloride salt | 0.045 g, 77% | Cl.Cl.FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)CC2CC2)C(=CC(=C1)F)F | InChI=1S/C22H22F3N3O2.2ClH/c23-15-10-16(24)20(17(25)11-15)22(30)27-19-3-1-2-18(26-19)21(29)14-6-8-28(9-7-14)12-13-4-5-13;;/h1-3,10-11,13-14H,4-9,12H2,(H,26,27,30);2*1H
